US07851473B2
(1) tert-Butyl 3-{[(2,2,2-trichloroethoxy)carbonyl]amino}piperidine-1-carboxylate
To a solution of tert-butyl 3-aminopiperidine-1-carboxylate (1.00 g, 4.99 mmol) and pyridine (489 ml, 5.99 mmol) in tetrahydrofuran (16 ml) was added, under ice-cooling, 2,2,2-trichloroethyl chloroformate (0.829 ml, 5.99 mmol), and the mixture was stirred at room temperature for 1 hour. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was introduced to water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give 867 mg (46.2%) of the desired product as an oil.

reactant | tert-butyl 3-aminopiperidine-1-carboxylate | 4.99 mmol, 1.00 g | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | pyridine | 5.99 mmol, 489 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 5.99 mmol, 0.829 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-{[(2,2,2-trichloroethoxy)carbonyl]amino}piperidine-1-carboxylate | 867 mg, 46.2% | ClC(COC(=O)NC1CN(CCC1)C(=O)OC(C)(C)C)(Cl)Cl | C13H21Cl3N2O4
